US07605169B2
b) (±)-1,1-Dimethylethyl(1S,3R,4R)-3-(aminomethyl)-4-hydroxycyclopentanecarboxylate
To a solution of (±)-1,1-dimethylethyl (3aR,5S,6aR)-2-(phenylmethyl)hexahydro-2H-cyclopenta[d]isoxazole-5-carboxylate (13.0 g, 42.9 mmole) in EtOH (100 mL) in a Parr flask was added Pd(OH)2 (˜400 mg). The reaction contents were shaken under 50 psi of H2 overnight at RT. The reaction contents were filtered through Celite® (MeOH) and concentrated to give the title compound (7.87, 99%) as a white solid: LC-MS (ES) m/e 216 (M+H)+.

reactant | (±)-1,1-dimethylethyl (3aR,5S,6aR)-2-(phenylmethyl)hexahydro-2H-cyclopenta[d]isoxazole-5-carboxylate | 42.9 mmole, 13.0 g | C1(=CC=CC=C1)CN1O[C@H]2[C@@H](C1)C[C@@H](C2)C(=O)OC(C)(C)C | C18H25NO3
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd(OH)2 | ˜400 mg | [OH-].[OH-].[Pd+2]
product | (±)-1,1-Dimethylethyl(1S,3R,4R)-3-(aminomethyl)-4-hydroxycyclopentanecarboxylate | 99% | NC[C@H]1C[C@@H](C[C@H]1O)C(=O)OC(C)(C)C | C11H21NO3
